* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4096 1 2 3 4 5
R1 Inn1 2 {Rsern} Temp=-273.15
R2 Inp1 1 {Rserp} Temp=-273.15
R3 Aol1 COM 1Meg Temp=-273.15
R4 Clamp COM 1Meg Temp=-273.15
C1 Clamp COM {Cfp1a}
B1 COM Clamp I=Uplim(Dnlim({Aol2/1Meg}* V(Aol1,COM), {Isink}-V(OL,COM)* 0.2, 20m), {Isrc}+V(OL,COM)*0.2, 20m)
A1 Inn2 Inp2 COM COM COM COM Aol1 COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k En={En} Enk={Enk}
G2 0 VCC_Int 3 0 1
G3 0 Vee_Int 4 0 1
R6 VCC_Int 0 1 Temp=-273.15
R7 Vee_Int 0 1 Temp=-273.15
R8 N032 VCC_Int 1Meg Temp=-273.15
R9 N032 Vee_Int 1Meg Temp=-273.15
C2 N032 0 1
E1 COM 0 N032 0 1
R10 COM 0 1Meg Temp=-273.15
Rx N008 N013 {Rx_Zo} Temp=-273.15
Rdummy N008 COM {Rdummy_Zo} Temp=-273.15
G4 COM N003 Aol2 N008 {G1_Zo}
R11 Cap2L COM 1 Temp=-273.15
R12 Cap2L Cap2R {R1a_Zo} Temp=-273.15
R13 Cap2R COM {R2a_Zo} Temp=-273.15
G5 COM N005 Cap2R COM {G2_Zo}
C3 Cap2R Cap2L {C1a_Zo}
R14 N003 COM 1 Temp=-273.15
R15 N003 N004 {R2b_Zo} Temp=-273.15
R16 N004 Cap1 {R1b_Zo} Temp=-273.15
C4 COM Cap1 {C1b_Zo}
Gb1 COM Cap2L N004 COM 1
R17 N013 COM 1 Temp=-273.15
B2 COM N013 I=Uplim(Dnlim({G3_Zo}* V(ZoF,COM), {Izon}, 25m), {Izop}, 25m)
R18 N007 COM 1 Temp=-273.15
R19 N007 ZoF {R1c_Zo} Temp=-273.15
R20 ZoF COM {R2c_Zo} Temp=-273.15
C5 ZoF N007 {C1c_Zo}
R21 N005 COM 1 Temp=-273.15
R22 N005 N006 {R2d_Zo} Temp=-273.15
R23 N006 N018 {R1d_Zo} Temp=-273.15
C6 COM N018 {C1d_Zo}
Gb2 COM N007 N006 COM 1
R25 Aol2 COM 1Meg Temp=-273.15
C7 Aol2 COM {Cfp2}
G7 COM Aol2 Clamp COM 1µ
Cinp COM Inp1 {Cinp}
Cinn Inn1 COM {Cinn}
Cdiff Inp1 Inn1 {Cdiff}
Rinn Inn1 COM {Rinn} Temp=-273.15
Rinp COM Inp1 {Rinp} Temp=-273.15
R24 Inn2 N027 1m Temp=-273.15
Ibp Inp1 COM {Ib}
Ibn Inn1 COM {Ib-Ios}
R26 N010 N012 1k Temp=-273.15
A2 COM Inp1 COM COM COM COM COM COM OTA G=1u In={Inp} Ink={Inkp}
A3 COM Inn1 COM COM COM COM COM COM OTA G=0 In={Inn} Ink={Inkn}
B3 N012 N010 I=1m*{Vos+Drift* (Temp-27)}
R27 N017 N011 1m Temp=-273.15
G6 N017 Inp2 N025 N020 1m
R28 Inp2 N017 1k Temp=-273.15
C8 N023 N024 {C1a_PSRp}
G8 COM N024 VCC_Int COM {G1_PSRp}
R29 N024 COM 1 Temp=-273.15
R30 N023 N024 {R1a_PSRp} Temp=-273.15
R31 N023 COM {R2a_PSRp} Temp=-273.15
C9 N021 N022 {C1b_PSRp}
R32 N021 COM {R2b_PSRp} Temp=-273.15
R33 N021 N022 {R1b_PSRp} Temp=-273.15
G9 COM N022 N023 COM 1
R34 N022 COM 1 Temp=-273.15
G10 COM N025 N021 COM {G2_PSRp}
R35 N025 COM 1 Temp=-273.15
C10 N020 N019 {C1a_PSRn}
G11 COM N019 VEE_Int COM {G1_PSRn}
R36 N019 COM 1 Temp=-273.15
R37 N020 N019 {R1a_PSRn} Temp=-273.15
R38 N020 COM {R2a_PSRn} Temp=-273.15
G12 N010 N011 N002 COM 1m
R39 N011 N010 1k Temp=-273.15
C11 N002 N001 {C1a_CMR}
G13 COM N001 Inp1 COM {G1_CMR}
R40 N001 COM 1 Temp=-273.15
R41 N002 N001 {R1a_CMR} Temp=-273.15
R42 N002 COM {R2a_CMR} Temp=-273.15
Vimon N009 5 0
BIq 3 4 I={Iq_on} +I(VImon)
G1 COM N012 Inp1 COM 1k
G14 COM N027 Inn1 COM 1k
R5 COM N012 1m Temp=-273.15
R43 COM N027 1m Temp=-273.15
C12 N027 COM 1p
C13 N012 COM 1p
DIP 3 Inp2 DIP
DIN Inp2 4 DIN
C14 VCC_Int 0 1n
C15 Vee_Int 0 1n
DOP Vsatp N008 DO
DON N008 Vsatn DO
DGP N028 Clamp DGP
DGN Clamp N029 DGN
S1 COM Cap1 OL COM OL
S2 Cap2R Cap2L OL COM OL
F1 COM OLp VGP 1m
A4 OLp OLn COM COM COM COM OL COM OR Ref=100u Vh=50u Trise=10n
R44 OLp COM 1k
F2 COM OLn VGN -1m
R45 OLn COM 1k
C16 OLp COM 1n
C17 OLn COM 1n
DOI N008 N009 LIM
COI N009 N008 1p
R46 Vsatni 4 1k
R47 Vsatpi 3 1k
C18 Vsatpi 3 1n
C19 Vsatni 4 1n
B4 4 Vsatni I=Max(Ap*(Bp**(-I(Vimon)*1k))* (-(I(Vimon)*1k)**Cp),40u)
B5 Vsatpi 3 I=Max(Ap*(Bp**(I(Vimon)*1k))* ((I(Vimon)*1k)**Cp),40u)
G15 COM Vsatp Vsatpi COM 1
R48 Vsatp COM 1
C21 Vsatp COM 1n
G16 COM Vsatn Vsatni COM 1
R49 Vsatn COM 1
C22 Vsatn COM 1n
S3 3 Inp1 Inp1 3 ESDI
S4 3 Inn1 Inn1 3 ESDI
S5 Inp1 4 4 Inp1 ESDI
S6 Inn1 4 4 Inn1 ESDI
C24 N008 Vsatp 10p
C25 N008 Vsatn 10p
S7 3 5 5 3 ESDO
S8 5 4 4 5 ESDO
C26 OL COM 1p
B6 COM N030 I=1m*({Zo_max}* {Iscp}+V(3,COM)) Rpar=1k Cpar=1n
G18 COM GRp N030 COM 1
R51 GRp COM 1
G19 COM GRn N031 COM 1
R52 GRn COM 1
B7 COM N031 I=1m*({Zo_max}* {Iscn}+V(4,COM)) Rpar=1k Cpar=1n
VGP N028 GRp 0
VGN N029 GRn 0
DIP1 3 Inn2 DIP
DIN1 Inn2 4 DIN
.param En=27n Enk=1.2
.param Inp=0.2p Inkp=100
.param Inn=0.2p Inkn=100
.param Vos=-18.175u Drift=1u
.param Ib=10n Ios=1.5n
.param Vcm_min=0 Vcm_max=0
.param Vsmin=3 Vsmax=36
.param Iscp=10m Iscn=-10m
.param Torp=5u Torn=5u
.param Iq_on=47u Iq_off=5u
.param Ap=1.17e-5 Bp=1.17 Cp=1.76
.param Mor=0.7036 Bor=1.4284 Wor=0.16
.param IZop={2*Rx_Zo*Iscp} IZon={2*Rx_Zo*Iscn}
.model DIP D(Vfwd={Vsmax} Vrev={Vcm_max} Revepsilon=0.1)
.model DIN D(Vfwd={Vsmax} Vrev={-Vcm_min} Revepsilon=0.1)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u)
.model DGP D(Vfwd=1k Vrev=0 Revepsilon=0.5)
.model DGN D(Vfwd=1k Vrev=0 Revepsilon=0.5)
.model ESDI SW(Ron=50 Roff=1T Vt=31.6 Vh=-500m Vser=0.1)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m)
.param Rsern=10m Rserp=10m
.param Rinp=1T Cinp=7p
.param Rinn=1T Cinn=7p
.param Cdiff=2.5p
.param Aol=111 RL_dc=10k
.param SRp=0.38 SRn=-0.38
.param fp1=450 fp2=13.5Meg fp3=100G
.param Aol_v= {pwr(10, (Aol/20))}
.param Aol_adj = {(Aol_v/RL_dc)*(Zo_dc + RL_dc)}
.param Aol_adj_dB = {20*log10(Aol_adj)}
.param Aol2 = {pwr(10, (Aol_adj_dB - 40)/20)}
.param Cfp1 = {1 / (2 * pi * fp1 * Aol2)}
.param A=8.85e-1 B=5.56e-2 C=1.06 D=2.99m
.param ratio = {Zo_dc/RL_dc}
.param Cfp1a = {Cfp1*((A+B*ratio)/(1+C*ratio+D*ratio**2))}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Isrc = {Cfp1a * SRp * 1Meg} Isink = {Cfp1a * SRn * 1Meg}
.param beta_Zo=1.04
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=874
.param Zo_max=2k
.param R1a_Zo=10k
.param fz1_Zo=3.5
.param fp1_Zo=170
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1b_Zo=10k
.param fp2_Zo=1m
.param fz2_Zo=90m
.param C1b_Zo = {1 / (fz2_Zo * R1b_Zo * 2 * pi)}
.param R2b_Zo = {(1 / (fp2_Zo * C1b_Zo * 2 * pi))
+- R1b_Zo}
.param R1c_Zo=10k
.param fz3_Zo=1.5Meg
.param fp3_Zo=100G
.param C1c_Zo = {1 / (2 * pi * R1c_Zo * fz3_Zo)}
.param R2c_Zo = {R1c_Zo/ ((2 * pi * fp3_Zo * C1c_Zo
+* R1c_Zo) - 1)}
.param actual3_Zo = {R2c_Zo / (R1c_Zo + R2c_Zo)}
.param G3_Zo = {1/actual3_Zo}
.param R1d_Zo=10k
.param fp4_Zo=250k
.param fz4_Zo=600k
.param C1d_Zo = {1 / (fz4_Zo * R1d_Zo * 2 * pi)}
.param R2d_Zo = {(1 / (fp4_Zo * C1d_Zo * 2 * pi))
+- R1d_Zo}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=106
.param R1a_PSRp=100k
.param fz1_PSRp=220
.param fp1_PSRp=750k
.param C1b_PSRp = {1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp = {1/actual2_PSRp}
.param R1b_PSRp=100k
.param fz2_PSRp=15k
.param fp2_PSRp=750k
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param Rej_dc_PSRn=105
.param R1a_PSRn=1Meg
.param fz1_PSRn=3.5
.param fp1_PSRn=750k
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=103
.param R1a_CMR=1Meg
.param fz1_CMR=3.5
.param fp1_CMR=550k
.ends ADA4096
